US07612084B2
N-{5-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(2-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}ethoxy)phenyl]ethyl}amino)ethyl]-2-hydroxyphenyl}formamide
N-{2-(benzyloxy)-5-[(1R)-2-({2-[4-(2-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}ethoxy)phenyl]ethyl}amino)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl]phenyl}formamide (Preparation 45, 174 mg, 0.18 mmol) was dissolved in methanol (20 ml) and ammonium formate (230 mg, 3.7 mmol) and 20% palladium hydroxide on carbon (26 mg) added. The stirred reaction was then heated at 90° C. for 2 hours. After cooling to room temperature, the mixture was filtered and solvent removed in vacuo. The residue was then taken up in ethyl acetate (50 ml) and saturated aqueous sodium hydrogen carbonate (50 ml). The organics were separated, washed with brine then dried (magnesium sulphate) and the solvent removed in vacuo to yield the title compound as a yellow glass, 180 mg.

reactant | N-{2-(benzyloxy)-5-[(1R)-2-({2-[4-(2-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}ethoxy)phenyl]ethyl}amino)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl]phenyl}formamide | 0.18 mmol, 174 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCC1=CC=C(C=C1)OCCC1=CC(=C(C=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)NC=O | C60H77N3O5Si
reactant | ammonium formate | 3.7 mmol, 230 mg | C(=O)[O-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 26 mg | [OH-].[OH-].[Pd+2]
product | N-{5-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(2-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}ethoxy)phenyl]ethyl}amino)ethyl]-2-hydroxyphenyl}formamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCC1=CC=C(C=C1)OCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)C=1C=CC(=C(C1)NC=O)O | C46H65N3O5Si
